US05622951
Trans-1-(2-Methoxyphenyl)-4-(1-(4-phenylphenyl)cyclohex-4-yl)piperazine
1-(2-Methoxyphenyl)-4-(1-(4-phenylphenyl)cyclohex-1-en-4-yl)piperazine (2.7 g, 5.4 mmol) was hydrogenated at 50 psi (about 3.5×105N.m-2) above atmospheric pressure at 45° C. in acetic acid (50 ml), using 10% Pd/C (2.4 g) as a catalyst for three days. The volatiles were evaporated in vacuo and the residue was partitioned between dichloromethane (150 ml) and sat. NaHCO3 (200 ml). The organic layer was separated and washed with brine and evaporated in vacuo. The residues were recrystallised from dichloromethane and again from methanol. The white solid was dissolved in ether and acidified to pH 1 with ethereal HCl. The volatiles were removed in vacuo to give the title compound as the one and a half hydrochloride; three quarters hydrate (0.281 g), m.p. 220°-225° C.

reactant | 1-(2-Methoxyphenyl)-4-(1-(4-phenylphenyl)cyclohex-1-en-4-yl)piperazine | 5.4 mmol, 2.7 g | COC1=C(C=CC=C1)N1CCN(CC1)C1CC=C(CC1)C1=CC=C(C=C1)C1=CC=CC=C1 | C29H32N2O
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
catalyst | Pd/C | 2.4 g | [Pd] | Pd
product | Trans-1-(2-Methoxyphenyl)-4-(1-(4-phenylphenyl)cyclohex-4-yl)piperazine | COC1=C(C=CC=C1)N1CCN(CC1)[C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)C1=CC=CC=C1 | C29H34N2O
